US06103707
Synthesis of 9-(2-deoxy-2-fluoro-4-thio-beta-D-arabinofuranosyl)-2-chloroadenine (B=2-chloroadenine and R=H in formula [I])
360 mg of the 9-(3-O-benzyl-5-O-t-butyldiphenylsilyl-2-deoxy-2-fluoro-4-thio-D-arabinofuranosyl)-2,6-dichloropurine was dissolved in 11 ml of methylene chloride. To this solution, 2.70 ml of 1 M trichloroboran was added dropwise at -78° C. under a stream of argon. The mixture was allowed to warm up to room temperature, and then stirred for 30 minutes. To this was added 1.0 ml of methanol at -78° C. The resulting mixture was stirred for a further 30 minutes, and then allowed to warm up to room temperature. To this mixture was added a saturated aqueous solution of sodium hydrogencarbonate. The solvent was distilled off, and the residue was azeotropically distilled with methanol three times. The residue was then separated into the alpha-anomer and the beta-anomer by silica gel column chromatography. 115 mg of the beta-anomer obtained was dissolved in 20 ml of a saturated ammonia/ethanol solution, and allowed to react in a sealed tube at 80° C. for 7 hours. The solvent was distilled off, and the residue was dissolved in 5 ml of DMF. To this solution was added 137 mg of ammonium fluoride, and the mixture was stirred at room temperature overnight. The solvent was distilled off, and the residue was purified by silica gel column chromatography to obtain 51 mg (yield 31%) of the title compound.

reactant | 9-(3-O-benzyl-5-O-t-butyldiphenylsilyl-2-deoxy-2-fluoro-4-thio-D-arabinofuranosyl)-2,6-dichloropurine | 360 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](C(S[C@@H]1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N1C2=NC(=NC(=C2N=C1)Cl)Cl)F | C33H33Cl2FN4O2SSi
reactant | trichloroboran | 1 M, 2.70 ml | ClB(Cl)Cl | BCl3
reactant | methanol | 1.0 ml | CO | CH4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ammonia ethanol | 20 ml | N.C(C)O
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
product | 9-(2-deoxy-2-fluoro-4-thio-beta-D-arabinofuranosyl)-2-chloroadenine | 51 mg, yield 31% | F[C@@H]1[C@@H](S[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)N)Cl | C10H11ClFN5O2S
